US06348474B1
1-(2,4-Dichlorobenzylamino)-6-(ethoxycarbonyl)-3-methyl-2-benzimidazolone
Sodium hydrite (0.080 g, 60% suspension in oil) was added to a solution of 1-(2,4-dichlorobenzylamino)-2-hydroxy-6-(ethoxycarbonyl)benzimidazole (0.396 g) in N,N′-dimethylformamide (4 ml), and the mixture was stirred at room temperature for 1 hr. Methyl iodide (0.307 g) was added, and the mixture was stirred for 2 hr. The precipitated crystals were collected by filtration, washed with water and ethanol and dried to give the objective compound (0.348 g).

reactant | 1-(2,4-dichlorobenzylamino)-2-hydroxy-6-(ethoxycarbonyl)benzimidazole | 0.396 g | ClC1=C(CNN2C(=NC3=C2C=C(C=C3)C(=O)OCC)O)C=CC(=C1)Cl | C17H15Cl2N3O3
reactant | Methyl iodide | 0.307 g | CI | CH3I
solvent | N,N′-dimethylformamide | 4 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-Dichlorobenzylamino)-6-(ethoxycarbonyl)-3-methyl-2-benzimidazolone | 0.348 g | ClC1=C(CNN2C(N(C3=C2C=C(C=C3)C(=O)OCC)C)=O)C=CC(=C1)Cl | C18H17Cl2N3O3
